US05665730
10. 8-(2-tert-Butoxycarbonylamino-6-methylbenzylamino)-3-formyl-2-methylimidazo[1,2-a]pyridine
The title compound is prepared according to the procedure described for example 7 starting from 8-amino-3-formyl-2-methylimidazo[1,2-a]pyridine (4.0 g), 2-tert-butoxycarbonylamino-6-methylbenzylchloride (7.0 g), sodium iodide (4.1 g) and sodium carbonate (6.1 g) in acetone (250 ml). Purification by chromatography on silica gel (toluene/dioxane 9:1 as eluent) and crystallization from diisopropyl ether yield 7.3 g (81%) of m.p. 210°-212° C.

reactant | 8-amino-3-formyl-2-methylimidazo[1,2-a]pyridine | 4.0 g | NC=1C=2N(C=CC1)C(=C(N2)C)C=O | C9H9N3O
reactant | 2-tert-butoxycarbonylamino-6-methylbenzylchloride | 7.0 g | C(C)(C)(C)OC(=O)NC1=C(CCl)C(=CC=C1)C | C13H18ClNO2
reactant | sodium iodide | 4.1 g | [I-].[Na+]
reactant | sodium carbonate | 6.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 8-(2-tert-Butoxycarbonylamino-6-methylbenzylamino)-3-formyl-2-methylimidazo[1,2-a]pyridine | C(C)(C)(C)OC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C22H26N4O3
